US09340547B2
a) 3-Methyl-N-phenyl-1H-pyrrole-2-carboxamide
Prepared following the experimental method described in preparation 1a starting from 1.38 g (11.3 mmol) of 3-methyl-1H-pyrrole-2-carboxylic acid and 1.13 g (12.13 mmol) of aniline. After purification by flash chromatography (0-40% AcOEt in hexane), 1.08 g (49% yield) of the title compound were obtained as a white solid.

reactant | 3-methyl-1H-pyrrole-2-carboxylic acid | 11.3 mmol, 1.38 g | CC1=C(NC=C1)C(=O)O | C6H7NO2
reactant | aniline | 12.13 mmol, 1.13 g | NC1=CC=CC=C1 | C6H7N
product | 3-Methyl-N-phenyl-1H-pyrrole-2-carboxamide | 1.08 g, 49% yield | CC1=C(NC=C1)C(=O)NC1=CC=CC=C1 | C12H12N2O
